US07625938B2
N-methoxy-N-methylquinoline-3-carboxamide
To a suspension of the quinoline-3-carboxylic acid (480 mg, 2.77 mmol) and N,O-dimethyhydroxylamine hydrochloride (405 mg, 4.15 mmol), in dichloromethane (10 mL) was added triethyl amine (1.93 mL, 13.8 mmol) followed by bromo(trispyrrolidin-1yl)phosphonium hexafluorophosphate (1.55 g, 3.32 mmol). After stirring the reaction mixture at room temperature for 1 hour, it was quenched by the addition of water (10 mL). The resulting mixture was extracted with DCM. The organic layer dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography using 75% ethyl acetate-hexanes. 1H NMR (500 MHz, CDCl3): 8.25 (d, J=1.8 Hz, 1H), 8.67 (d, J=1.3 Hz, 1H), 8.18 (d, J=8.5 Hz, 1H), 7.96 (d, J=8.2 Hz, 1H), 7.84 (t, J=8.0 Hz, 1H), 7.65 (t, J=8.5 Hz, 1H), 3.61 (s, 3H), 3.48 (s, 3H). LC-MS: 1.24 min; (M+H)=217.1.

reactant | quinoline-3-carboxylic acid | 2.77 mmol, 480 mg | N1=CC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | N,O-dimethyhydroxylamine hydrochloride | 4.15 mmol, 405 mg | Cl.CNOC
reactant | triethyl amine | 13.8 mmol, 1.93 mL | C(C)N(CC)CC | C6H15N
reactant | bromo(trispyrrolidin-1yl)phosphonium hexafluorophosphate | 3.32 mmol, 1.55 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-methoxy-N-methylquinoline-3-carboxamide | CON(C(=O)C=1C=NC2=CC=CC=C2C1)C | C12H12N2O2
